US09120788B2
Step 1. Synthesis of N-(4-chloro-3,5-difluorophenyl)-3-nitropyridin-2-amine (C17)
A mixture of 4-chloro-3,5-difluoroaniline (1.64 g, 10.0 mmol), 2-chloro-3-nitropyridine (1.56 g, 9.84 mmol) and cesium carbonate (6.56 g, 20.1 mmol) in N,N-dimethylformamide (30 mL) was stirred at 80° C. for 36 hours. The reaction mixture was cooled to room temperature, diluted with water (200 mL) and extracted with ethyl acetate (3×200 mL). The combined organic layers were washed with saturated aqueous sodium chloride solution (5×50 mL), dried over sodium sulfate, filtered, concentrated in vacuo and purified by chromatography on silica gel (Gradient: 0% to 5% ethyl acetate in petroleum ether) to provide the product as a yellow solid. Yield: 200 mg, 0.70 mmol, 7%. 1H NMR (400 MHz, CDCl3) δ 10.23 (br s, 1H), 8.55-8.61 (m, 2H), 7.52 (br d, J=9 Hz, 2H), 6.96-7.01 (m, 1H).

reactant | 4-chloro-3,5-difluoroaniline | 10.0 mmol, 1.64 g | ClC1=C(C=C(N)C=C1F)F | C6H4ClF2N
reactant | 2-chloro-3-nitropyridine | 9.84 mmol, 1.56 g | ClC1=NC=CC=C1[N+](=O)[O-] | C5H3ClN2O2
reactant | cesium carbonate | 20.1 mmol, 6.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | water | 200 mL | O | H2O
product | N-(4-chloro-3,5-difluorophenyl)-3-nitropyridin-2-amine | ClC1=C(C=C(C=C1F)NC1=NC=CC=C1[N+](=O)[O-])F | C11H6ClF2N3O2
